US06432955B1
102h. [2-{2-(S)-[(1-Amino-isoquinolin-6-ylmethyl)-carbamoyl]-pyrrolidine-1-yl}-1-(R)-(4-methoxybenzyl)-2-oxo-ethylamino]-acetic acid ethyl ester hydrochloride
0.150 g of {[2-{2-(S)-[(1-Amino-isoquinolin-6-ylmethyl)-carbamoyl]-pyrrolidine-1-yl}-1-(R)-(4-methoxybenzyl)-2-oxo-ethyl]-tert.-butoxycarbonyl-amino}-acetic acid ethyl ester were treated with 5 mL of HCl in dioxane (5M solution) and the mixture was stirred for 3 h at ambient temperature. The solvent was distilled off and the remaining white solid was washed with diethyl ether and dried. Yield 0.100 g (80%); (+)-APCI-MS: 534 (MH+).

reactant | {[2-{2-(S)-[(1-Amino-isoquinolin-6-ylmethyl)-carbamoyl]-pyrrolidine-1-yl}-1-(R)-(4-methoxybenzyl)-2-oxo-ethyl]-tert.-butoxycarbonyl-amino}-acetic acid ethyl ester | 0.150 g | C(C)OC(CN(C(=O)OC(C)(C)C)[C@@H](C(=O)N1[C@@H](CCC1)C(NCC=1C=C2C=CN=C(C2=CC1)N)=O)CC1=CC=C(C=C1)OC)=O | C34H43N5O7
reactant | HCl | 5 mL | Cl | ClH
solvent | dioxane | 5M | O1CCOCC1 | C4H8O2
product | [2-{2-(S)-[(1-Amino-isoquinolin-6-ylmethyl)-carbamoyl]-pyrrolidine-1-yl}-1-(R)-(4-methoxybenzyl)-2-oxo-ethylamino]-acetic acid ethyl ester hydrochloride | Cl.C(C)OC(CN[C@@H](C(=O)N1[C@@H](CCC1)C(NCC=1C=C2C=CN=C(C2=CC1)N)=O)CC1=CC=C(C=C1)OC)=O | InChI=1S/C29H35N5O5.ClH/c1-3-39-26(35)18-32-24(16-19-6-9-22(38-2)10-7-19)29(37)34-14-4-5-25(34)28(36)33-17-20-8-11-23-21(15-20)12-13-31-27(23)30;/h6-13,15,24-25,32H,3-5,14,16-18H2,1-2H3,(H2,30,31)(H,33,36);1H/t24-,25+;/m1./s1
